US07678815B2
A solution of 2-amino-5-fluoropyridine (6.0 g, 53 mmol) in 40 ml dry dioxane was treated at 0° C. with trimethylaluminium (2M in hexane, 26.8 ml, 53 mmol). The mixture was stirred at room temperature for 1 h. A solution of 5-bromo-2-methyl-thiazole-4-carboxylic acid methyl ester (4.2 g, 18 mmol) in 40 mL dry dioxane was added and the reaction mixture was refluxed for 4 h. 10 ml water and 10 g sodium sulfate were sequentially added and filtered. The filtrate was evaporated and the residue purified by flash chromatography (hetane, ethyl acetate) to yield 5-bromo-2-methyl-thiazole-4-carboxylic acid (5-fluoro-pyridin-2-yl)-amide (3.0 g, 53%) as a white solid, MS (ISP): m/e=318.0 (M+H+).

reactant | 2-amino-5-fluoropyridine | 53 mmol, 6.0 g | NC1=NC=C(C=C1)F | C5H5FN2
reactant | trimethylaluminium | 53 mmol, 2M, 26.8 ml | C[Al](C)C
reactant | 5-bromo-2-methyl-thiazole-4-carboxylic acid methyl ester | 18 mmol, 4.2 g | COC(=O)C=1N=C(SC1Br)C | C6H6BrNO2S
reactant | sodium sulfate | 10 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 5-bromo-2-methyl-thiazole-4-carboxylic acid (5-fluoro-pyridin-2-yl)-amide | 3.0 g, 53% | FC=1C=CC(=NC1)NC(=O)C=1N=C(SC1Br)C | C10H7BrFN3OS
